datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:14])([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20],62.1324
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:16])([H:4])([H:5])[H:6].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18],76.1488
[O:0]=[S:1]([O:2][H:4])[H:3].[O:5]>>[H:3][O:5].[O:0]=[S:1][O:2][H:4],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:10])[H:5].[C:8]([C:9]([H:13])([H:14])[H:15])([H:11])[H:12],95.8136
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:10])([H:11])[H:16].[C:3](=[C:4]([C:5]([H:18])([H:19])[H:20])[H:17])([H:14])[H:15],224.898368
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:26])([H:27])[H:28])=[C:15]([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:13]([C:12]([H:23])([H:24])[H:25])[C:14]([H:26])([H:27])[H:28])([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])[H:5],48.5762
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23],30.1248
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[H:7][H:8]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:8])[H:4].[H:7],33.472
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:22]([H:23])([H:24])[H:25])[H:12])([H:10])[H:11],15.69
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24][H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][O:23][O:24][H:25],58.19944
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]1([H:19])([H:20])[C:12]([H:21])([H:22])[C:13]2([H:23])[C:14]([H:24])([H:25])[C:15]([H:26])([H:27])[C:16]([H:28])([H:29])[C:17]2([H:30])[C:18]1([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:23])[H:6].[C:11]1([H:19])([H:20])[C:12]([H:21])([H:22])[C:13]2[C:14]([H:24])([H:25])[C:15]([H:26])([H:27])[C:16]([H:28])([H:29])[C:17]2([H:30])[C:18]1([H:31])[H:32],71.128
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],75.4375
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:12])([H:10])[H:11],45.1454
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]([C:14]#[C:15][H:18])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:16])([C:14]#[C:15][H:18])[H:17],23.012
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][H:13],13.3888
